US07186716B2
A solution of 2-chloronicotinoyl chloride (1 eq.) in dichloromethane (10 mL) was added slowly to a mixture of pyrrole (1.5 eq.) (Aldrich, Milwaukee, Wis.) and aluminum chloride (3.5 g, 1 eq.) in dichloromethane (8 mL) at 0° C. The mixture was stirred at 0° C. for 10 mins and at room temperature for 30 mins. The reaction was diluted with ethyl acetate, washed with brine, dried and concentrated. The residue was purified on a silica gel column to give 2.27 g of (2-chloro-pyridin-3-yl)-(1H-pyrrol-2-yl)-methanone.

reactant | 2-chloronicotinoyl chloride | 1 eq. | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | pyrrole | 1.5 eq. | N1C=CC=C1 | C4H5N
reactant | aluminum chloride | 3.5 g, 1 eq. | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-chloro-pyridin-3-yl)-(1H-pyrrol-2-yl)-methanone | 2.27 g | ClC1=NC=CC=C1C(=O)C=1NC=CC1 | C10H7ClN2O
